US05498618
To a stirred and hot (60°-70° C.) mixture of 36 g of 4-methyl-1-(phenylmethyl)-4-piperidinol and 15 ml of acetonitrile were added dropwise 55 ml of concentrated sulfuric acid while cooling. After complete addition, stirring was continued for 20 hours at room temperature. The reaction mixture was poured on crushed ice. The whole was neutralized with potassium carbonate and then strongly alkalinized with a potassium hydroxide solution 15%. The free base was extracted with ethyl acetate. The aqueous phase was saturated with potassium hydroxide and extracted again with ethyl acetate. The combined extracts were dried, filtered and evaporated The semi-solid residue was triturated in 1,1'-oxybisethane and filtered. To the filtrate was added 2-propanone until a clear solution was obtained. Then gaseous hydrogen chloride was introduced into it. The precipitated solid salt was filtered off and recrystallized from 2-propanol, yielding 21.5 g of N-[1-(phenylmethyl)-4-methyl-4-piperidinyl]acetamide hydrochloride; mp. 288°-289° C. (interm. 4).

reactant | 4-methyl-1-(phenylmethyl)-4-piperidinol | 36 g | CC1(CCN(CC1)CC1=CC=CC=C1)O | C13H19NO
reactant | sulfuric acid | 55 ml | S(O)(O)(=O)=O | H2O4S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrogen chloride | Cl | ClH
reactant | acetonitrile | 15 ml | C(C)#N | C2H3N
product | N-[1-(phenylmethyl)-4-methyl-4-piperidinyl]acetamide hydrochloride | 21.5 g | Cl.C1(=CC=CC=C1)CN1CCC(CC1)(C)NC(C)=O | InChI=1S/C15H22N2O.ClH/c1-13(18)16-15(2)8-10-17(11-9-15)12-14-6-4-3-5-7-14;/h3-7H,8-12H2,1-2H3,(H,16,18);1H
